US07585881B2
4-methyl-3-(methylthio)-5-(trifluoromethyl)-4H-1,2,4-triazole
4-Methylthiosemicarbazid (10.0 g, 95.09 mmol) in TFA (46.7 ml) was heated to reflux o.n. Excess TFA was removed via evaporation. The residue was dissolved in aq. 1M NaOH (100 ml), followed by dropwise addition of CH3I (4.47 ml, 71.17 mmol) in EtOH (22 ml). The resulting mixture was stirred o.n. Partial evaporation of the solvent induced crystallization. After dilution with H2O the solid was collected via filtration and gave after drying the title compound (5.2 g, 28%). MS (M++1) 198

reactant | 4-Methylthiosemicarbazid | 95.09 mmol, 10.0 g | CNC(NN)=S | C2H7N3S
reactant | CH3I | 71.17 mmol, 4.47 ml | CI | CH3I
reactant | TFA | 46.7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 22 ml | CCO | C2H6O
product | 4-methyl-3-(methylthio)-5-(trifluoromethyl)-4H-1,2,4-triazole | CN1C(=NN=C1C(F)(F)F)SC | C5H6F3N3S
